US06762320B2
N-[4-(4-Fluoro-benzyloxy)-phenyl]-malonamide
The title compound is prepared in analogy to example 3 from N-[4-(4-fluoro-benzyloxy)-phenyl]-malonamic acid methyl ester and ammonium hydroxide. Yield: 80%. Colorless solid. MS: m/e=303.2 (M++H).

reactant | N-[4-(4-fluoro-benzyloxy)-phenyl]-malonamic acid methyl ester | COC(CC(=O)NC1=CC=C(C=C1)OCC1=CC=C(C=C1)F)=O | C17H16FNO4
reactant | ammonium hydroxide | [OH-].[NH4+]
product | N-[4-(4-Fluoro-benzyloxy)-phenyl]-malonamide | Yield: 80% | FC1=CC=C(COC2=CC=C(C=C2)NC(CC(=O)N)=O)C=C1 | C16H15FN2O3
